US04539410
A solution of 5-chloro-2-(1-imidazolyl)-3-methylindole (0.37 g) in anhydrous dimethylformamide (4 ml is added dropwise to a suspension of a 50% dispersion of sodium hydride in mineral oil (0.17 g) in anhydrous dimethylformamide (3 ml) while stirring under nitrogen at 0°. The mixture is stirred at 0° for 1/2 hour. To the suspension is then added a solution of 6-bromohexanoic acid (0.35 g) in anhydrous dimethylformamide (4 ml) dropwise. The reaction mixture is stirred at 0° for 1/2 hour and then at room temperature for several hours. The resulting suspension is diluted with water (30 ml) and washed with ether (2×15 ml). The aqueous solution is acidified to pH 5 with 1N hydrochloric acid and extracted with ether (3×30 ml). The extract is dried over magnesium sulfate, filtered and concentrated in vacuo to give an oil which crystallizes. This material is dissolved in ethanol (3 ml) and the solution is treated with 0.11 ml of 7N ethanolic hydrogen chloride. The solution is concentrated in vacuo and the residue is triturated with ether. The hydrochloride salt is collected and is purified by recrystallization from acetonitrile/ether to give 1-(5-carboxypentyl)-5-chloro-2-(1-imidazolyl)-3-methylindole hydrochloride, m.p. 149°-152°.

reactant | 5-chloro-2-(1-imidazolyl)-3-methylindole | 0.37 g | ClC=1C=C2C(=C(NC2=CC1)N1C=NC=C1)C | C12H10ClN3
reactant | sodium hydride | [H-].[Na+]
reactant | 6-bromohexanoic acid | 0.35 g | BrCCCCCC(=O)O | C6H11BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 1-(5-carboxypentyl)-5-chloro-2-(1-imidazolyl)-3-methylindole hydrochloride | Cl.C(=O)(O)CCCCCN1C(=C(C2=CC(=CC=C12)Cl)C)N1C=NC=C1 | InChI=1S/C18H20ClN3O2.ClH/c1-13-15-11-14(19)6-7-16(15)22(9-4-2-3-5-17(23)24)18(13)21-10-8-20-12-21;/h6-8,10-12H,2-5,9H2,1H3,(H,23,24);1H
